US07141564B2
(a) 2-Bromo-5-hydroxy-6-nitropyridine
3-Hydroxy-2-nitropyridine (20 g, 0.143 mole) was dissolved in methanol (400 ml) and a solution of 25% sodium methoxide in methanol (33 ml, 0.13 mole) was added at room temperature. The mixture was stirred for 30 min, then was cooled to 0° C., and bromine (7.2 ml, 0.14 mole) was added slowly. The reaction was then stirred at 0° C. for 30 min, then was quenched with glacial AcOH (2.5 ml). The solvent was removed in vacuo to afford material (30 g, 96%), which was used without further purification.

reactant | 3-Hydroxy-2-nitropyridine | 0.143 mole, 20 g | OC=1C(=NC=CC1)[N+](=O)[O-] | C5H4N2O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | bromine | 0.14 mole, 7.2 ml | BrBr | Br2
solvent | methanol | 400 ml | CO | CH4O
solvent | methanol | 0.13 mole, 33 ml | CO | CH4O
product | 2-Bromo-5-hydroxy-6-nitropyridine | 30 g, 96% | BrC1=NC(=C(C=C1)O)[N+](=O)[O-] | C5H3BrN2O3
